US05034417
A mixture of 3'-(2,4-difluorophenylamino)-4'-nitroacetophenone (8.5 g), iron powder (8 g), and ammonium chloride (0.8 g) in ethanol (100 ml) and water (50 ml) was refluxed with stirring for 1 hour. The insoluble was filtered and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with water, dried over magnesium sulfate, and concentrated. The residual oil was purified by column chromatography on silica gel (150 g) eluting with a mixture of toluene and ethyl acetate (20:1) to give a powder of 4'-amino-3'-(2,4-difluorophenylamino)acetophenone (1.7 g).

reactant | 3'-(2,4-difluorophenylamino)-4'-nitroacetophenone | 8.5 g | FC1=C(C=CC(=C1)F)NC=1C=C(C=CC1[N+](=O)[O-])C(C)=O | C14H10F2N2O3
reactant | ammonium chloride | 0.8 g | [Cl-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
catalyst | iron | 8 g | [Fe] | Fe
product | 4'-amino-3'-(2,4-difluorophenylamino)acetophenone | 1.7 g | NC1=C(C=C(C=C1)C(C)=O)NC1=C(C=C(C=C1)F)F | C14H12F2N2O
